US07767674B2
4-[2-(Dimethylamino)-ethoxy]-benzoic Acid
To a solution of 4-[2-(dimethylamino)-ethoxy]-benzoic acid methyl ester (3 mmol) in methanol (10 mL) is added a lithium hydroxide solution (2 M, 20 mL). The reaction mixture is stirred at 22° C. for 15 min. After removal of the solvent, the residue is re-dissolved in methanol, passed through a SCX column, washed with methanol, and eluded with 2M ammonia in methanol. After solvent is evaporated, a white solid is obtained (500 mg, 80% yield, ES−(m/z) 208.2 [M−H]).

reactant | 4-[2-(dimethylamino)-ethoxy]-benzoic acid methyl ester | 3 mmol | COC(C1=CC=C(C=C1)OCCN(C)C)=O | C12H17NO3
reactant | lithium hydroxide | 2 M, 20 mL | [OH-].[Li+]
solvent | methanol | 10 mL | CO | CH4O
product | 4-[2-(Dimethylamino)-ethoxy]-benzoic Acid | 80% yield | CN(CCOC1=CC=C(C(=O)O)C=C1)C | C11H15NO3
